US05294734
4.8 g (19.1 mmol) of 3-benzyloxy-2-methylenepropionaldehyde-diethylacetal and 0.36 g (1.9 mmol) of p-toluenesulfonic acid monohydrate are stirred for 3 hours in 60 ml of acetone. The mixture is diluted with 400 ml of methylene chloride, extracted with N--KHCO3 solution and saturated sodium chloride solution, dried over Na2SO4, filtered and concentrated by evaporation. The 3-benzyloxy-2-methylenepropanol that remains (yellow liquid) is placed at room temperature, without further purification, together with 2.1 ml (19 mmol) of isocyanoacetic acid ethyl ester, in 25 ml of toluene, and 50 mg of copper(I) oxide are added. When the exothermic reaction has subsided, the mixture is stirred for a further one hour at room temperature, filtered over Hyflo® and concentrated by evaporation. The residue is taken up in 25 ml of tetrahydrofuran, 5 ml of water are added, and the mixture is refluxed for 4 hours. The mixture is concentrated by evaporation, toluene is added, and the mixture is again concentrated by evaporation. Chromatography on silica gel with toluene/ethyl acetate (1:1) and subsequent crystallisation from diethyl ether yield 5-benzyloxy-2-formylamino-3-hydroxy-4-methylene-pentanoic acid ethyl ester having a melting point of 112°-114° C.

reactant | 3-benzyloxy-2-methylenepropionaldehyde-diethylacetal | 19.1 mmol, 4.8 g | C(C)OC(C(COCC1=CC=CC=C1)=C)OCC | C15H22O3
reactant | p-toluenesulfonic acid monohydrate | 1.9 mmol, 0.36 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | isocyanoacetic acid ethyl ester | 19 mmol, 2.1 ml | C(C)OC(C[N+]#[C-])=O | C5H7NO2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) oxide | 50 mg | [Cu-]=O
product | 5-benzyloxy-2-formylamino-3-hydroxy-4-methylene-pentanoic acid ethyl ester | C(C)OC(C(C(C(COCC1=CC=CC=C1)=C)O)NC=O)=O | C16H21NO5
